US09034900B2
Step 2: N-[3-(2-methyl-1-oxo-2,6-naphthyridin-4-yl)phenyl]ethanesulfonamide
A mixture of 4-chloro-2-methyl-2,6-naphthyridin-1-one (50.0 mg, 0.26 mmol), [3-(ethylsulfonylamino)phenyl]boronic acid (88.0 mg, 0.38 mmol), Pd(dppf)Cl2 (15.3 mg, 0.026 mmol) and K3PO4 (190 mg, 0.9 mmol) in dioxane (3 mL) and water (0.5 mL) was microwaved at 120° C. under microwave for 2 h. Purification by silica gel chromatography on (PE:EA=10:1 to 1:1) followed by preparative HPLC gave the title compound (5.9 mg, 6.8%) as a yellow solid. 1H NMR (Methanol-d4, 400 MHz) δ 8.99 (brs, 1H), 8.71 (d, J=6.0 Hz, 1H), 8.39 (d, J=5.6 Hz, 1H), 7.62 (s, 1H), 7.51 (t, J=8.0 Hz, 1H), 7.41-7.40 (m, 1H), 7.36 (dd, J1=8.0 Hz, J2=1.2 Hz, 1H), 7.29 (d, J=5.6 Hz, 1H), 3.72 (s, 3H), 3.17 (q, J=7.6 Hz, 2H), 1.35 (t, J=7.6 Hz, 3H). LCMS: 344.1 (M+H)+.

reactant | 4-chloro-2-methyl-2,6-naphthyridin-1-one | 0.26 mmol, 50.0 mg | ClC1=CN(C(C2=CC=NC=C12)=O)C | C9H7ClN2O
reactant | [3-(ethylsulfonylamino)phenyl]boronic acid | 0.38 mmol, 88.0 mg | C(C)S(=O)(=O)NC=1C=C(C=CC1)B(O)O | C8H12BNO4S
reactant | K3PO4 | 0.9 mmol, 190 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.5 mL | O | H2O
catalyst | Pd(dppf)Cl2 | 0.026 mmol, 15.3 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-[3-(2-methyl-1-oxo-2,6-naphthyridin-4-yl)phenyl]ethanesulfonamide | 5.9 mg, 6.8% | CN1C(C2=CC=NC=C2C(=C1)C=1C=C(C=CC1)NS(=O)(=O)CC)=O | C17H17N3O3S
